US04233303
(d) Preparation of 3,7-dihydro-3-(2-hydroxypropyl)-8-methyl-1-propyl-1H-purine-2,6-dione XIV
About 15 g of 5,6-diamino-1-(2-hydroxypropyl)-3-propyl-2,4-(1H, 3H)-pyrimidinedione as an oil was refluxed for one hour in 50 ml of acetic acid. The solution was evaporated and the residue was dissolved in water. Active carbon was added and filtered off. To the filtrate 25 ml of 5-N NaOH was added and the solution was refluxed for 30 minutes. Hydrochloric acid was added until acid reaction and the received crystals were filtered off and recrystallized from 200 ml of water. Yield 2.7 g. NMR.

reactant | 5,6-diamino-1-(2-hydroxypropyl)-3-propyl-2,4-(1H, 3H)-pyrimidinedione | 15 g | NC=1C(N(C(N(C1N)CC(C)O)=O)CCC)=O | C10H18N4O3
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3,7-dihydro-3-(2-hydroxypropyl)-8-methyl-1-propyl-1H-purine-2,6-dione | OC(CN1C(N(C(C=2NC(=NC12)C)=O)CCC)=O)C | C12H18N4O3
